US06051712
Selective cleavage of the trityl group was effected analogously to the procedure published by E. Krainer et al. in Tetrahedron Letters 1993, 1713-1716 by treating a solution of 780 mg (0.92 mmol) of tert-butyl (3RS,4RS)-3-[4-(2-trimethylsilanyl-ethoxymethoxy)-naphthalen-2-ylmethoxy]-4-[4-(2-trityloxy-ethyl)-phenyl]-piperidine-1-carboxylate in 15 ml of methylene chloride with a solution of 436 mg (3.68 mmol) of trifluoroacetic acid and 803 mg (3.68 mmol) of trifluoroacetic anhydride in 2 ml of methylene chloride. After 30 seconds the reaction mixture was cooled to 0° C. and treated with 4 ml of triethylamine. After 5 minutes 10 ml of methanol were added and the mixture was stirred for 10 minutes. Subsequently, the mixture was washed with saturated sodium hydrogen carbonate solution and the aqueous phase was thereafter back-extracted with 10 ml of methylene chloride. The combined organic phases were dried over sodium sulphate and then evaporated under reduced pressure. The crude product was chromatographed on silica gel using a 4:1 mixture of hexane and ethyl acetate as the eluent. There were obtained 553 mg of tert-butyl (3RS,4RS)-4-[4-(2-hydroxy-ethyl)-phenyl]-3-[4-(2-trimethylsilanyl-ethoxy-methoxy)-naphthalen-2-ylmethoxy]-piperidine-1-carboxylate as a colourless oil.

reactant | tert-butyl (3RS,4RS)-3-[4-(2-trimethylsilanyl-ethoxymethoxy)-naphthalen-2-ylmethoxy]-4-[4-(2-trityloxy-ethyl)-phenyl]-piperidine-1-carboxylate | 0.92 mmol, 780 mg | C[Si](CCOCOC1=CC(=CC2=CC=CC=C12)COC1CN(CCC1C1=CC=C(C=C1)CCOC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C(=O)OC(C)(C)C)(C)C | C54H63NO6Si
reactant | trifluoroacetic acid | 3.68 mmol, 436 mg | FC(C(=O)O)(F)F | C2HF3O2
reactant | trifluoroacetic anhydride | 3.68 mmol, 803 mg | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | triethylamine | 4 ml | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 15 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 2 ml | C(Cl)Cl | CH2Cl2
solvent | methanol | 10 ml | CO | CH4O
product | tert-butyl (3RS,4RS)-4-[4-(2-hydroxy-ethyl)-phenyl]-3-[4-(2-trimethylsilanyl-ethoxy-methoxy)-naphthalen-2-ylmethoxy]-piperidine-1-carboxylate | 553 mg | OCCC1=CC=C(C=C1)C1C(CN(CC1)C(=O)OC(C)(C)C)OCC1=CC2=CC=CC=C2C(=C1)OCOCC[Si](C)(C)C | C35H49NO6Si
